US06239142B1
N-(4-Chlorobenzyl)-2-(4-morpholinylmethyl)-4-oxo-7-(3-phenylpropyl)-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide.
N-(4-Chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)thieno[2,3-b]pyridine-5-carboxamide (418 mg) from Example No. 41 and potassium carbonate (152 mg) are suspended in DMF (10 mL) and to the mixture is added 1-bromo-3-phenylpropane (167 μL). The reaction mixture is allowed to stir at room temperature for 72 h. The reaction mixture is poured into water (25 mL) and extracted with EtOAc (2×25 mL). The organic layer is dried (Na2SO4) and concentrated. The resulting crude solid is purified by recrystallization from ethanol to afford 277 mg (52%) of the title compound as a white solid.

reactant | N-(4-Chlorobenzyl)-4-hydroxy-2-(4-morpholinylmethyl)thieno[2,3-b]pyridine-5-carboxamide | 418 mg | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CN3CCOCC3)O)C=C1 | C20H20ClN3O3S
reactant | potassium carbonate | 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-phenylpropane | 167 μL | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | water | 25 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-2-(4-morpholinylmethyl)-4-oxo-7-(3-phenylpropyl)-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 277 mg, 52% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CCCC2=CC=CC=C2)SC(=C3)CN3CCOCC3)=O)C=C1 | C29H30ClN3O3S
